US05314640
Under nitrogen flow, the 27 g of 4-propyl-β,β-dibromostyrene was dissolved in 44 ml of tetrahydrofuran and cooled to -78° C. Two hundred ml of a butyl lithium hexane solution (1.6 mol/1 was added dropwise therein over a period of one hour. The solution was then agitated at room temperature for one and a half hours. After completion of the reaction, 200 ml of water was added. The crystals then were extracted with chloroform and washed three times with water. The remaining chloroform was distilled off, after which vacuum distillation (70° to 75° C./20 mmHg) was carried out to obtain 3.5 g of 4-propylphenylacetylene.

reactant | 4-propyl-β,β-dibromostyrene | 27 g | C(CC)C1=CC=C(C=C(Br)Br)C=C1 | C11H12Br2
reactant | butyl lithium hexane | Two hundred ml | CCCCCC.C(CCC)[Li]
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 44 ml | O1CCCC1 | C4H8O
product | 4-propylphenylacetylene | 3.5 g | C(CC)C1=CC=C(C=C1)C#C | C11H12
